US08492378B2
5-[3-[4-(methylsulfinyl)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol
A solution of methyl 3-[4-(methylsulfinyl)phenyl]-1-benzofuran-5-carboxylate (2.23 g, 7.10 mmol) and hydrazine monohydrate (1.76 mL, 36.3 mmol) in methanol (25 mL) was heated under reflux for 4 days. After cooling, the reaction mixture was concentrated under reduced pressure, and a solution of the obtained residue, carbon disulfide (1.28 mL, 21.3 mmol) and triethylamine (1.19 mL, 8.52 mmol) in ethanol (30 mL) was heated under reflux for 4 hr. After cooling, the reaction mixture was poured into water, and the mixture was acidified with 1M hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran to give the title compound (1.19 g, yield 47%) as pale-yellow crystals.

reactant | methyl 3-[4-(methylsulfinyl)phenyl]-1-benzofuran-5-carboxylate | 7.10 mmol, 2.23 g | CS(=O)C1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C(=O)OC | C17H14O4S
reactant | hydrazine monohydrate | 36.3 mmol, 1.76 mL | O.NN
reactant | carbon disulfide | 21.3 mmol, 1.28 mL | C(=S)=S | CS2
reactant | triethylamine | 8.52 mmol, 1.19 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-[3-[4-(methylsulfinyl)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol | 1.19 g, yield 47% | CS(=O)C1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)S | C17H12N2O3S2
